US07652008B2
(3R*,4S*)-4-amino-7-chloro-2,2,9-trimethyl-3,4-dihydro-2H-pyrano[2,3-g]quinolin-3-ol
To a solution of (3R*,4R*)-7-chloro-3,4-epoxy-2,2,9-trimethyl-3,4-dihydro-2H-pyrano[2,3-g]quinoline (2.0 g, 7.25 mmol) in ethanol (20 mL), ammonia water (10 mL) was added, and the resulting mixture was stirred in a sealed tube at 90° C. for 3 hours. Upon the completion of the reaction, the reaction solution was concentrated, and ethyl acetate was added thereto, The resulting solution was washed with water and then with saturated sodium chloride solution, and dried over magnesium sulfate and concentrated. The resulting mixture was purified by silica gel column (hexane/ethyl acetate=1/2) to obtain the aimed product (yield: 86%).

reactant | (3R*,4R*)-7-chloro-3,4-epoxy-2,2,9-trimethyl-3,4-dihydro-2H-pyrano[2,3-g]quinoline | 7.25 mmol, 2.0 g | ClC1=NC=2C=C3C(=CC2C(=C1)C)OC([C@H]1[C@@H]3O1)(C)C | C15H14ClNO2
reactant | ammonia water | 10 mL | O.N
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | (3R*,4S*)-4-amino-7-chloro-2,2,9-trimethyl-3,4-dihydro-2H-pyrano[2,3-g]quinolin-3-ol | yield: 86% | N[C@@H]1[C@H](C(OC2=CC=3C(=CC(=NC3C=C21)Cl)C)(C)C)O | C15H17ClN2O2
